US08048878B2
Synthesis of ethyl (R)-2-tert-butoxycarbonylamino-5-(2,3,4-trifluorophenyl)-5-oxopentanoate
To a suspension of magnesium (0.452 g) in tetrahydrofuran (20 mL), 1-bromo-2,3,4-trifluorobenzene (2.21 mL) was added dropwise at 55° C. over 15 minutes, and the reaction solution was stirred at room temperature for 30 minutes. This solution was added dropwise to a solution of (R)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (4.0 g) in tetrahydrofuran (25 mL) at −40° C. over 10 minutes, and the reaction solution was stirred at −40° C. to 0° C. for one hour. Water was added to the solution in small portions at 0° C., followed by extraction with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 4.2 g of the title compound as a colorless oil. The property values of the compound are as follows.

reactant | magnesium | 0.452 g | [Mg] | Mg
reactant | (R)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 4.0 g | CCOC(=O)[C@@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | Water | O | H2O
reactant | 1-bromo-2,3,4-trifluorobenzene | 2.21 mL | BrC1=C(C(=C(C=C1)F)F)F | C6H2BrF3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | ethyl (R)-2-tert-butoxycarbonylamino-5-(2,3,4-trifluorophenyl)-5-oxopentanoate | 4.2 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OCC)CCC(=O)C1=C(C(=C(C=C1)F)F)F | C18H22F3NO5
